US06809110B2
In analogy to the procedure described in example 1 d], [rac]-2-ethoxy-3-(3-fluoro-4-hydroxy-phenyl)-propionic acid ethyl ester (example 7 a]) was reacted with 3-(2-phenyl-thiazol-4-yl)-propan-1-ol in tetrahydrofuran in the presence of triphenylphosphine and DEAD (diethyl azodicarboxylate) to yield [rac]-2-ethoxy-3-{3-fluoro-4-[3-(2-phenyl-thiazol-4-yl)-propoxy]-phenyl}-propionic acid ethyl ester, which was further saponified in analogy to the procedure described in example 4 e], to yield [rac]-2-ethoxy-3-{3-fluoro-4-[3-(2-phenyl-thiazol-4-yl)-propoxy]-phenyl}-propionic acid as a colorless gum.

reactant | [rac]-2-ethoxy-3-(3-fluoro-4-hydroxy-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)O)F)OCC)=O | C13H17FO4
reactant | 3-(2-phenyl-thiazol-4-yl)-propan-1-ol | C1(=CC=CC=C1)C=1SC=C(N1)CCCO | C12H13NOS
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [rac]-2-ethoxy-3-{3-fluoro-4-[3-(2-phenyl-thiazol-4-yl)-propoxy]-phenyl}-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)OCCCC=1N=C(SC1)C1=CC=CC=C1)F)OCC)=O | C25H28FNO4S
